US04294960
Thiourea (0.14 g.) was added to a solution of 4-nitrobenzyl 7-[2-(2-bromoacetyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer: 0.8 g.) in ethanol (20 ml.) and water (5 ml.), and stirred at room temperature for 3.5 hours. The resultant solution was concentrated under reduced pressure, and to the residue were added water and ethyl acetate. The ethyl acetate layer was separated, washed with water, dried over magnesium sulfate and concentrated under reduced pressure to give the crude product (0.6 g.). The product was purified by column chromatography on silica gel (eluent:benzene and ethyl acetate (8:2) to give 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate (syn-isomer:0.21 g.), mp 165° to 170° C. (dec.).

reactant | Thiourea | 0.14 g | NC(=S)N | CH4N2S
reactant | 4-nitrobenzyl 7-[2-(2-bromoacetyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 0.8 g | BrCC(=O)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C19H17BrN4O8S
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | water | 5 ml | O | H2O
product | 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-methoxyiminoacetamido]-3-cephem-4-carboxylate | 0.21 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C20H18N6O7S2
